data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[n:2][c:10]([O-:6])[cH:22][cH:3][cH:21]1.[cH:4]1[cH:12][cH:5][c:7]2[c:13]([o+:8][c:11](-[c:19]3[cH:16][cH:14][cH:20][cH:15][cH:17]3)[cH:9][cH:18]2)[cH:23]1>>[cH:1]1[n:2]([CH:18]2[c:7]3[cH:5][cH:12][cH:4][cH:23][c:13]3[O:8][C:11]([c:19]3[cH:16][cH:14][cH:20][cH:15][cH:17]3)=[CH:9]2)[c:10](=[O:6])[cH:22][cH:3][cH:21]1", "epd": [["Pi-/Sigma+", [1, 2], [2, 18]], ["LP-/Pi+", [6], [6, 10]], ["Pi-/LP+", [8, 11], [8]], ["Pi-/Pi+", [9, 18], [9, 11]], ["Pi-/Pi+", [3, 21], [1, 21]], ["Pi-/Pi+", [10, 22], [3, 22]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:2](#[N:10])[C:18]([C:3]#[N:11])=[CH:4][c:19]1[cH:7][cH:15][cH:21][cH:16][cH:8]1.[CH:1]1=[CH:5][c:6]2[cH:13][cH:12][cH:20][cH:9][c:14]2[CH:22]1[Na:17]>>[CH:1]1=[CH:5][c:6]2[cH:13][cH:12][cH:20][cH:9][c:14]2[CH:22]1[CH:4]([C:18](=[C:2]=[N-:10])[C:3]#[N:11])[c:19]1[cH:7][cH:15][cH:21][cH:16][cH:8]1.[Na+:17]", "epd": [["Sigma-/Sigma+", [22, 17], [22, 4]], ["Pi-/Pi+", [4, 18], [18, 2]], ["Pi-/LP+", [2, 10], [10]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH:1]1=[CH:4][c:5]2[cH:13][cH:12][cH:24][cH:7][c:17]2[CH:25]1[Na:20].[cH:2]1[cH:11][cH:3][c:6]2[c:14]([o+:8][c:10](-[c:22]3[cH:18][cH:15][cH:23][cH:16][cH:19]3)[cH:9][cH:21]2)[cH:26]1>>[CH:1]1=[CH:4][c:5]2[cH:13][cH:12][cH:24][cH:7][c:17]2[CH:25]1[CH:21]1[c:6]2[cH:3][cH:11][cH:2][cH:26][c:14]2[O:8][C:10]([c:22]2[cH:18][cH:15][cH:23][cH:16][cH:19]2)=[CH:9]1.[Na+:20]", "epd": [["Sigma-/Sigma+", [25, 20], [25, 21]], ["Pi-/Pi+", [21, 9], [9, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:8]1[N+:16](=[CH:3][CH:32]=[CH:9][c:23]2[cH:4][cH:17][cH:2][cH:18][cH:5]2)[CH:15]([CH2:33][c:28]2[cH:34][cH:11][cH:19][cH:12][cH:35]2)[C:22](=[O:7])[N:29]1[CH3:21])([CH3:24])([CH3:25])[CH3:26].[CH3:6][CH2:30][c:31]1[c:13]([CH3:36])[cH:14][nH:27][c:20]1[CH3:10]>>[C:1]([CH:8]1[N:16]([CH:3]=[CH:32][CH:9]([CH:14]2[C:13]([CH3:36])=[C:31]([CH2:30][CH3:6])[C:20]([CH3:10])=[NH+:27]2)[c:23]2[cH:4][cH:17][cH:2][cH:18][cH:5]2)[CH:15]([CH2:33][c:28]2[cH:34][cH:11][cH:19][cH:12][cH:35]2)[C:22](=[O:7])[N:29]1[CH3:21])([CH3:24])([CH3:25])[CH3:26]", "epd": [["LP-/Pi+", [27], [20, 27]], ["Pi-/Pi+", [31, 20], [13, 31]], ["Pi-/Sigma+", [14, 13], [14, 9]], ["Pi-/Pi+", [9, 32], [32, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1](#[N:11])[C:17]([C:2]#[N:12])=[CH:4][c:18]1[cH:8][cH:13][cH:19][cH:14][cH:9]1.[n:3]1[cH:15][cH:5][c:10]([NH2:7])[cH:6][cH:16]1>>[C:1](=[N-:11])=[C:17]([C:2]#[N:12])[CH:4]([n:3]1[cH:15][cH:5][c:10](=[NH2+:7])[cH:6][cH:16]1)[c:18]1[cH:8][cH:13][cH:19][cH:14][cH:9]1", "epd": [["Pi-/Sigma+", [3, 15], [3, 4]], ["Pi-/Pi+", [5, 10], [5, 15]], ["LP-/Pi+", [7], [7, 10]], ["Pi-/Pi+", [4, 17], [1, 17]], ["Pi-/LP+", [1, 11], [11]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]12=[N:7][CH2:10][CH2:25][CH2:21][N:12]1[c:8]1[c:17]([cH:5][cH:30][cH:23][cH:28]1)[S:13]2.[cH:1]1[cH:3][cH:18][cH:6][c:9]2[c:4]1[N+:24]([CH3:14])=[CH:16][C:15]2=[CH:11][c:22]1[cH:19][cH:26][cH:29][cH:27][cH:20]1>>[cH:1]1[cH:3][cH:18][cH:6][c:9]2[c:4]1[n:24]([CH3:14])[cH:16][c:15]2[CH:11]([N:7]1[c:2]2[n+:12]([c:8]3[c:17]([cH:5][cH:30][cH:23][cH:28]3)[s:13]2)[CH2:21][CH2:25][CH2:10]1)[c:22]1[cH:19][cH:26][cH:29][cH:27][cH:20]1", "epd": [["LP-/Pi+", [12], [2, 12]], ["Pi-/Sigma+", [7, 2], [7, 11]], ["Pi-/Pi+", [11, 15], [15, 16]], ["Pi-/LP+", [16, 24], [24]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:9][cH:23][c:20]([N+:13](=[CH2:19])[CH3:34])[cH:24][cH:10]1.[cH:2]1[cH:4][c:30]([B-:31]2([c:12]3[s:18][c:11]([CH3:22])[cH:14][cH:25]3)[O:7][c:32]3[cH:27][cH:29][cH:28][cH:26][c:33]3[O:8]2)[cH:5][cH:3][c:6]1[C:21]([F:15])([F:16])[F:17]>>[cH:1]1[cH:9][cH:23][c:20]([N:13]([CH2:19][c:12]2[s:18][c:11]([CH3:22])[cH:14][cH:25]2)[CH3:34])[cH:24][cH:10]1.[cH:2]1[cH:4][c:30](-[b-:31]2[o+:7][c:32]3[cH:27][cH:29][cH:28][cH:26][c:33]3[o:8]2)[cH:5][cH:3][c:6]1[C:21]([F:15])([F:16])[F:17]", "epd": [["LP-/Pi+", [7], [31, 7]], ["Sigma-/Sigma+", [12, 31], [12, 19]], ["Pi-/LP+", [19, 13], [13]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:11][C:21](=[O:8])[N:17]=[CH:10][c:7]1[cH:5][cH:14][cH:16][cH:15][cH:6]1)([CH3:18])([CH3:19])[CH3:20].[C:2]1(=[O:4])[N-:3][CH2:12][CH2:13][O:9]1>>[C:1]([O:11][C:21]([O-:8])=[N:17][CH:10]([N:3]1[C:2](=[O:4])[O:9][CH2:13][CH2:12]1)[c:7]1[cH:5][cH:14][cH:16][cH:15][cH:6]1)([CH3:18])([CH3:19])[CH3:20]", "epd": [["LP-/Sigma+", [3], [3, 10]], ["Pi-/Pi+", [10, 17], [17, 21]], ["Pi-/LP+", [21, 8], [8]]]}
